US07842696B2
DIPEA (140 mg, 0.19 mL, 1.08 mmol) was added to a stirred solution of 1-phenyl-1H-[1,2,3]triazole-4-carboxylic acid (40 mg, 0.21 mmol) in DMF (5 mL). HOBT (32 mg, 0.23 mmol) and EDCI (102 mg, 0.53 mmol) were then added at room temperature. After 2 minutes, 2-amino-1-[4-(5-fluoro-2-trifluoromethyl-benzoyl)-piperazin-1-yl]-ethanone hydrochloride salt (90 mg, 0.24 mmol) was added and the resulting mixture was stirred at room temperature overnight. Cold water was then added and filtered the solid precipitated out to afford 88 mg (82.2% yield) of 1-phenyl-1H-[1,2,3]triazole-4-carboxylic acid {2-[4-(5-fluoro-2-trifluoromethyl-benzoyl)-piperazin-1-yl]-2-oxo-ethyl}-amide. LCMS Purity: 100%. 1H NMR (DMSO-d6): δ 9.4 (s, 1H), 8.76 (t, 1H), 8.04 (m, 3H), 7.7-7.46 (m, 5H), 4.3 (d, 2H), 3.8-3.4 (m, 6H), 3.28 (d, 2H).

reactant | DIPEA | 1.08 mmol, 0.19 mL, 140 mg | CCN(C(C)C)C(C)C | C8H19N
reactant | 1-phenyl-1H-[1,2,3]triazole-4-carboxylic acid | 0.21 mmol, 40 mg | C1(=CC=CC=C1)N1N=NC(=C1)C(=O)O | C9H7N3O2
reactant | HOBT | 0.23 mmol, 32 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDCI | 0.53 mmol, 102 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | 2-amino-1-[4-(5-fluoro-2-trifluoromethyl-benzoyl)-piperazin-1-yl]-ethanone hydrochloride salt | 0.24 mmol, 90 mg | Cl.NCC(=O)N1CCN(CC1)C(C1=C(C=CC(=C1)F)C(F)(F)F)=O
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 1-phenyl-1H-[1,2,3]triazole-4-carboxylic acid {2-[4-(5-fluoro-2-trifluoromethyl-benzoyl)-piperazin-1-yl]-2-oxo-ethyl}-amide | 88 mg, 82.2% yield | FC=1C=CC(=C(C(=O)N2CCN(CC2)C(CNC(=O)C=2N=NN(C2)C2=CC=CC=C2)=O)C1)C(F)(F)F | C23H20F4N6O3
